US07648989B2
Preparation of (5-Chloro-pyridin-3-yl)-acetic acid tert-butyl ester
Pd2(dba)3 (928 mg, 1.01 mmol) and (2′-dicyclohexylphosphanyl-biphenyl-2-yl)-dimethyl-amine (838 mg, 2.13 mmol) are added at RT under an atmosphere of argon to a solution of lithium hexamethyl disilazide in toluene (prepared by addition of n-BuLi (1.6 M in hexane, 24.3 ml, 38.85 mmol) to hexamethyl disilazane (6.27 g, 38.85 mmol) in toluene (100 ml) at −78° C.). The mixture is stirred at RT for 10 minutes, then it is cooled to −10° C. Acetic acid tert-butyl ester (4.12 g, 35.48 mmol) is added during 10 minutes. This mixture is canulated into a cold (−10° C.) solution of 1,3-dichloropyridine (5.00 g, 33.79 mmol) in toluene (40 ml). The mixture is warmed to RT and stirred for 2 h. TLC analysis indicated substantial conversion of starting material. Water was added, the resulting slurry is filtered, and the filtrate is extracted with EtOAc. The combined organic layers are dried over Na2SO4 and concentrated. Purification by FCC (hexane/EtOAc 100:0 to 92:8 to 85:15) yields the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.39 (s, 9H), 3.47 (s, 2H), 7.58-7.60 (m, 1H), 8.31 (s,1H), 8.41-8.42 (m, 1H). ES+−MS: 228.3 [M+H]+.

reactant | (2′-dicyclohexylphosphanyl-biphenyl-2-yl)-dimethyl-amine | 2.13 mmol, 838 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | lithium hexamethyl disilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | Acetic acid tert-butyl ester | 35.48 mmol, 4.12 g | C(C)(C)(C)OC(C)=O | C6H12O2
reactant | 1,3-dichloropyridine | 33.79 mmol, 5.00 g | ClN1CC(=CC=C1)Cl | C5H5Cl2N
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 1.01 mmol, 928 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 38.85 mmol, 1.6 M, 24.3 ml, 6.27 g | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | (5-Chloro-pyridin-3-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC=1C=NC=C(C1)Cl)=O | C11H14ClNO2
